US09145427B2
5-[(Benzyloxy)carbonyl]-4,5,6,7-tetrahydro[1,2,3]oxadiazolo[3,4-a]pyrazin-8-ium-3-olate (C58, prepared from 4-[(benzyloxy)carbonyl]piperazine-2-carboxylic acid using the general procedure described by T. S. Mansour et al., 2006, PCT Intl. Appl. WO 2006/130588) (65 g, 0.24 mol) was dissolved in o-xylene (250 mL) and cooled to −78° C. in a bomb reactor. 3,3,3-Trifluoroprop-1-yne (25 g, 0.27 mol) was injected into the reaction mixture, and the bomb was heated to 270° C. for 24 hours. After cooling to room temperature, the reaction was concentrated in vacuo, and the residue was purified by silica gel chromatography to provide C60 as white crystals. Yield: 7.5 g, 23 mmol, 10%. [The major regioisomer, benzyl 2-(trifluoromethyl)-6,7-dihydropyrazolo[1,5-a]pyrazine-5(4H)-carboxylate (C59), was also isolated, in 61% yield.]

reactant | 5-[(Benzyloxy)carbonyl]-4,5,6,7-tetrahydro[1,2,3]oxadiazolo[3,4-a]pyrazin-8-ium-3-olate | C(C1=CC=CC=C1)OC(=O)N1CC=2[N+](CC1)=NOC2[O-] | C13H13N3O4
reactant | 4-[(benzyloxy)carbonyl]piperazine-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)C(=O)O | C13H16N2O4
reactant | 3,3,3-Trifluoroprop-1-yne | 0.27 mol, 25 g | FC(C#C)(F)F | C3HF3
solvent | o-xylene | 250 mL | CC=1C=CC=CC1C | C8H10
product | benzyl 2-(trifluoromethyl)-6,7-dihydropyrazolo[1,5-a]pyrazine-5(4H)-carboxylate | 61% yield | FC(C1=NN2C(CN(CC2)C(=O)OCC2=CC=CC=C2)=C1)(F)F | C15H14F3N3O2
